US08278457B2
A solution of (1R,2R)-2-(4-bromophenoxy)cyclohexyl acetate (2.047 g, 6.54 mmol) in methanol (12.2 mL) and water (0.32 mL) was cooled to 0° C. and treated with lithium hydroxide hydrate (95%, 1.73 g, 39.2 mmol). The reaction was stirred at 0° C. for 15 minutes, then allowed to warm and stir at room temperature for 18 hours. The methanol was removed under reduced pressure, and the aqueous residue was partitioned between ethyl acetate (200 mL) and water (100 mL). After extraction of the aqueous layer with ethyl acetate (100 mL), the combined organics were washed with saturated aqueous sodium chloride solution (100 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to provide (1R,2R)-2-(4-bromophenoxy)cyclohexanol as a yellow oil. Yield: 1.76 g, 6.49 mmol, 99%. 1H NMR (400 MHz, CDCl3) δ 1.26-1.46 (m, 4H), 1.74-1.79 (m, 2H), 2.08-2.14 (m, 2H), 3.72 (ddd, J=10.5, 8.4, 4.7 Hz, 1H), 3.96 (m, 1H), 6.84 (d, J=9.0 Hz, 2H), 7.37 (d, J=9.0 Hz, 2H).

reactant | (1R,2R)-2-(4-bromophenoxy)cyclohexyl acetate | 6.54 mmol, 2.047 g | C(C)(=O)O[C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)Br | C14H17BrO3
reactant | lithium hydroxide hydrate | 39.2 mmol, 1.73 g | O.[OH-].[Li+]
solvent | methanol | 12.2 mL | CO | CH4O
solvent | water | 0.32 mL | O | H2O
product | (1R,2R)-2-(4-bromophenoxy)cyclohexanol | BrC1=CC=C(O[C@H]2[C@@H](CCCC2)O)C=C1 | C12H15BrO2
